US04994460
(2) Ethyl 2-(4-fluorobenzoyl)-4-(4-(5-fluoro-2-pyrimidinyl)piperazin-1-yl)butanoate
To a cold (-78° C.) solution of lithium 1,1,1,3,3,3-hexamethyl disilazane in tetrahydrofuran (27.4 mL, 1N, 27.4 mmol) kept under Ar atm was added dropwise (10 min) a solution of ethyl 4-(4-(5-fluoro-2-pyrimidinyl)piperazin-1-yl)butanoate (3.7 g, 12.5 mmol) in dry THF (12 mL). The reaction mixture was stirred 0.25 h at -78° C. and then treated dropwise (10 min) with a solution of 4-fluoro-1-naphthoyl chloride (2.6 g, 12.5 mmol) in dry THF (10 mL). The reaction was stirred -78° C. for 0.5 h then the cooling bath was removed. When the temperature of reaction mixture reached 0° C., HCl solution (40 mL, 0.3N) was added slowly followed by CH2Cl2 (350 mL); the organic phase was separated and aqueous phase was extracted with CH2Cl2 (120 mL). The organic extracts were combined, washed with water (2×45 mL) and brine, dried (MgSO4) and concentrated under reduced pressure to a crude mixture which was purified on a silica gel pad (8.7×2.5 cm). Evaporation of appropriate fractions gave 2.8 g (48%) of the desired product compound which was recrystallized from EtOH to give an analytical sample; mp 95°-6° C.; 1H NMR (CDCl3, 200 MHz) δ: 1.08 (t, J=7.1 Hz, CH3, 3H), 2.1-2.7 (m, 8H), 3.5-3.8 (m, 4H), 3.9-4.3 (m, 2H), 4.5-4.7 (m, 1H), 7.1-7.25 (m, 1H), 7.5-7.8 (m, 2H), 8.17 (s), 8.0-8.02 (s and m, 4H), 8.6-8.7 (m, 1H); IR (KBr) ν: 1740 (C=O, 1682, 1630, 1611, 1600, 1578, 1554, 1510 cm-1 ; UV (CH3CN) λ: 224 (ε 43570), 242 (ε 37740), 304 (ε 9084);

reactant | lithium 1,1,1,3,3,3-hexamethyl disilazane | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | ethyl 4-(4-(5-fluoro-2-pyrimidinyl)piperazin-1-yl)butanoate | 12.5 mmol, 3.7 g | FC=1C=NC(=NC1)N1CCN(CC1)CCCC(=O)OCC | C14H21FN4O2
reactant | 4-fluoro-1-naphthoyl chloride | 12.5 mmol, 2.6 g | FC1=CC=C(C2=CC=CC=C12)C(=O)Cl | C11H6ClFO
reactant | HCl | 0.3N, 40 mL | Cl | ClH
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 27.4 mmol, 1N, 27.4 mL | O1CCCC1 | C4H8O
solvent | CH2Cl2 | 350 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 2-(4-fluorobenzoyl)-4-(4-(5-fluoro-2-pyrimidinyl)piperazin-1-yl)butanoate | 2.8 g, 48% | FC1=CC=C(C(=O)C(C(=O)OCC)CCN2CCN(CC2)C2=NC=C(C=N2)F)C=C1 | C21H24F2N4O3
